US06642389B2
In analogy to the procedure described in example 17 a], [rac]-2-ethoxy-3-(4-hydroxy-benzo[b]thiophen-7-yl)-propionic acid methyl ester was reacted with 2-[2-(4-isopropoxy-phenyl)-5-methyl-oxazol-4-yl]-ethanol [PCT Int. Appl. (2000), WO0008002A1] in the presence of triphenylphosphine and DEAD (diethyl azodicarboxylate) to yield [rac]-2-ethoxy-3-(4-{2-[2-(4-isopropoxy-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-benzo[b]thiophen-7-yl)-propionic acid methyl ester, which was further saponified in analogy to the procedure described in example 91 e] to yield [rac]-2-ethoxy-3-(4-{2-[2-(4-isopropoxy-phenyl-5-methyl-oxazol-4-yl]-ethoxy}-benzo[b]thiophen-7-yl)-propionic acid as light yellow amorphous solid.

reactant | [rac]-2-ethoxy-3-(4-hydroxy-benzo[b]thiophen-7-yl)-propionic acid methyl ester | COC(C(CC1=CC=C(C2=C1SC=C2)O)OCC)=O | C14H16O4S
reactant | 2-[2-(4-isopropoxy-phenyl)-5-methyl-oxazol-4-yl]-ethanol | C(C)(C)OC1=CC=C(C=C1)C=1OC(=C(N1)CCO)C | C15H19NO3
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | [rac]-2-ethoxy-3-(4-{2-[2-(4-isopropoxy-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-benzo[b]thiophen-7-yl)-propionic acid methyl ester | COC(C(CC1=CC=C(C2=C1SC=C2)OCCC=2N=C(OC2C)C2=CC=C(C=C2)OC(C)C)OCC)=O | C29H33NO6S
